US06329530B1
3-Cyclohexyloxyacryloyl Chloride
50 g (0.5 mol) of phosgene are condensed into a stirred apparatus fitted with −78° C.-cooling. Over a period of 3 hours, 50.5 g (0.4 mol) of cyclohexyl vinyl ether are subsequently added dropwise at 20° C. The mixture is then stirred at 50° C. for 5 hours. The excess phosgene is flushed out with nitrogen, and the crude product is worked up by distillation. At 110° C./2.5 mbar, 66.4 g (88%) of the product of value were obtained.

reactant | phosgene | 0.5 mol, 50 g | C(=O)(Cl)Cl | CCl2O
reactant | cyclohexyl vinyl ether | 0.4 mol, 50.5 g | C(=C)OC1CCCCC1 | C8H14O
product | 3-Cyclohexyloxyacryloyl Chloride | 66.4 g, 88% | C1(CCCCC1)OC=CC(=O)Cl | C9H13ClO2
